US06933311B2
2,2,2-trichloro-N-(3-methylcinnolin-5-yl)acetamide
The title compound was prepared using 3-methylcinnolin-5-amine (commercially available, Maybridge), triethylamine, trichloroacetyl chloride and the procedure described in Example 1A.

reactant | 3-methylcinnolin-5-amine | CC=1N=NC=2C=CC=C(C2C1)N | C9H9N3
reactant | trichloroacetyl chloride | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2,2,2-trichloro-N-(3-methylcinnolin-5-yl)acetamide | ClC(C(=O)NC1=C2C=C(N=NC2=CC=C1)C)(Cl)Cl | C11H8Cl3N3O
